US07423036B2
a) 4-chloro-benzoic acid N′-(1-imino-ethyl)-hydrazide
1.09 g (20 mmol) sodium methoxide in 20 mL ethanol are added to a solution of 1.91 g (20 mmol) acetamidine hydrochloride in 30 mL ethanol. The mixture is stirred for 30 minutes at ambient temperature and then filtered. The filtrate is combined with 2.3 g (13.5 mmol) 4-chlorobenzoic acid hydrazide, stirred overnight at ambient temperature, cooled with an ice bath and then filtered. The precipitate is washed with cold ethanol and dried. Yellow solid. Yield: 1.45 g (51%); mass spectroscopy [M+H]+=212/214.

reactant | sodium methoxide | 20 mmol, 1.09 g | C[O-].[Na+]
reactant | acetamidine hydrochloride | 20 mmol, 1.91 g | Cl.C(C)(=N)N
reactant | 4-chlorobenzoic acid hydrazide | 13.5 mmol, 2.3 g | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-chloro-benzoic acid N′-(1-imino-ethyl)-hydrazide | N=C(C)NNC(C1=CC=C(C=C1)Cl)=O | C9H10ClN3O
